US07901794B2
A mixed solution of 5 g of 1,6-dibromopyrene, 2.1 g of benzothiazole, 5 g of cesium carbonate, 0.31 g of cuprous iodide, 0.12 g of triphenylphosphine, 57 mg of palladium acetate and 50 ml of dimethylformamide was heated while stirred under nitrogen gas stream at a temperature of 130° C. for 6 hours. The mixed solution was cooled to room temperature, thereafter filtered and washed with 10 ml of dimethylformamide and 100 ml of dichloromethane. The filtrate was washed twice with 50 ml of water, dried by magnesium sulfate and thereafter evaporated. The filtrate was purified by silica gel column chromatography and vacuum dried to thereafter obtain 1.1 g of 6-bromo-1-(benzothiazole-2-yl)pyrene.

reactant | 1,6-dibromopyrene | 5 g | BrC1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)Br | C16H8Br2
reactant | benzothiazole | 2.1 g | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | cesium carbonate | 5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | triphenylphosphine | 0.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | palladium acetate | 57 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-bromo-1-(benzothiazole-2-yl)pyrene | 1.1 g | BrC1=C2C=CC3=CC=C(C4=CC=C(C=C1)C2=C43)C=4SC3=C(N4)C=CC=C3 | C23H12BrNS
